US07012075B2
A solution of triisopropylsilyl 4-(4-bromophenyl)-1-piperazinecarboxylate (4.5 g, 10.2 mmoles) in toluene (17 mL) and tetrahydrofuran (17 mL) was degassed by bubbling nitrogen at room temperature via a fritted gas dispenser for 10 minutes and then cooled to −78° C. for the addition of butyllithium (4.9 mL as a 2.5 M solution in hexanes, 12.3 mmoles). The solution turned yellow and after 30 minutes, triisopropylborate (3 mL, 13.3 mmoles) was added and the solution was warmed to 0° C. over 2.5 h prior to quenching with sat. aq. ammonium chloride (22 mL). To the flask was added 0.825 mL of phosphoric acid (14.8 M, 12.3 mmoles). The solution was stirred for 30 minutes. The phases were separated and the organic phase was dried over sodium sulfate. Right after filtering off the drying agent, the organic phase was washed with wet tetrahydrofuran (approx 2% water). The solution was concentrated to approx 15 mL. While concentrating, three 0.5 mL-portions of water were added to prevent boroxine formation. At this point, hexane was added and the resulting precipitate was filtered to yield 4-(4-{[(triisopropylsilyl)oxy]carbonyl}-1-piperazinyl)phenylboronic acid.

reactant | triisopropylsilyl 4-(4-bromophenyl)-1-piperazinecarboxylate | 10.2 mmoles, 4.5 g | BrC1=CC=C(C=C1)N1CCN(CC1)C(=O)O[Si](C(C)C)(C(C)C)C(C)C | C20H33BrN2O2Si
reactant | triisopropylborate | 13.3 mmoles, 3 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | phosphoric acid | 12.3 mmoles, 14.8 M, 0.825 mL | P(O)(O)(O)=O | H3O4P
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
product | 4-(4-{[(triisopropylsilyl)oxy]carbonyl}-1-piperazinyl)phenylboronic acid | C(C)(C)[Si](OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O)(C(C)C)C(C)C | C20H35BN2O4Si
